US06569888B1
Methyl 4-Acetoxy-5-methoxyindole-2-carboxylate
A stirred solution of methyl 4-hydroxy-5-methoxyindole-2-carboxylate (0.51 g) and DMAP (10 mg) in acetic anhydride (5 ml) was heated at 80° C. for 4 hours. The reaction was concentrated in vacuo and the residue dissolved in dichloromethane and washed with hydrochloric acid (2.0 M), saturated aqueous sodium hydrogen carbonate solution, water, aqueous saturated sodium chloride solution and dried (MgSO4). The solution was concentrated in vacuo and the residue was purified by column chromatography using 50% diethyl ether:iso-hexane as eluent to give the product as a white solid (0.58 g, 75%), NMR d CD3SOCD3) 2.34 (s, 3H), 3.75 (s, 3H), 3.85 (s, 3H), 6.99 (d, 1H), 7.19 (d, 1H), 7.29 (d, 1H), 11.93 (brs, 1H); M/z (+) 264 (MH+).

reactant | methyl 4-hydroxy-5-methoxyindole-2-carboxylate | 0.51 g | OC1=C2C=C(NC2=CC=C1OC)C(=O)OC | C11H11NO4
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | DMAP | 10 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | Methyl 4-Acetoxy-5-methoxyindole-2-carboxylate | 0.58 g, 75% | C(C)(=O)OC1=C2C=C(NC2=CC=C1OC)C(=O)OC | C13H13NO5
